US07186749B2
Step 3: Methyl 3-phenyl-2-[(6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthyl)oxy]propanoate.
In a similar manner as described in step 1 of Example 7, the title compound was prepared from 6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthol (0.300 g, 0.676 mmol), prepared in the previous step, 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester (0.317 g, 1.02 mmol) and cesium carbonate (0.441 g, 1.35 mmol). Purification on a Biotage Horizon™ system with a KP-Sil Flash 40+M column (100 g Silica Gel, 60 Å) using 25% to 65% methylene chloride in hexane as the eluent gave methyl 3-phenyl-2-[(6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthyl)oxy]propanoate as an off-white amorphous solid (0.367 g, 90%), mp 50–55° C. Elemental Analysis for C38H30F3NO3 Calc'd: C, 75.36; H, 4.99; N, 2.31. Found: C, 75.24; H, 5.16; N, 2.22.

reactant | 6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthol | 0.676 mmol, 0.300 g | C1(=CC=CC=C1)C1=CC=C(N1CC1=CC=C(C=C1)C(F)(F)F)C=1C=C2C=CC(=CC2=CC1)O | C28H20F3NO
reactant | 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester | 1.02 mmol, 0.317 g | COC(C(CC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)=O | C11H11F3O5S
reactant | cesium carbonate | 1.35 mmol, 0.441 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | methyl 3-phenyl-2-[(6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthyl)oxy]propanoate | 0.367 g, 90% | C1(=CC=CC=C1)CC(C(=O)OC)OC1=CC2=CC=C(C=C2C=C1)C=1N(C(=CC1)C1=CC=CC=C1)CC1=CC=C(C=C1)C(F)(F)F | C38H30F3NO3
